US08957066B2
(E)-N-(2-aminophenyl)-3-(1-(2-(3,5-difluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamide
A solution of (E)-tert-butyl (2-(3-(1-(2-(3,5-difluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate (113 mg, 0.23 mmol) in dioxane (3 mL) was mixed with a 4 M solution of HCl in dioxane (2 mL). The mixture was stirred for 6 h at room temperature under a nitrogen atmosphere. The reaction mixture was then diluted with ethylaceate (15 mL). The salt was filtered, washed with EtOAc and dried overnight to 92 mg of the hydrochloric acid salt of (E)-N-(2-aminophenyl)-3-(1-(2-(3,5-difluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamide as an off-white solid. MS: 1H NMR (CD3OD) δ: 8.07 (s, 1H), 7.86 (s, 1H), 7.70 (d, J=15.4 Hz, 1H), 7.28-7.54 (m, 4H), 6.62 (d, J=15.7 Hz, 1H), 6.45-6.57 (m, 3H), 4.55 (t, J=5.2 Hz, 2H), 4.37 (t, J=5.2 Hz, 2H) ES+(M+Na)+: 407

reactant | (E)-tert-butyl (2-(3-(1-(2-(3,5-difluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate | 0.23 mmol, 113 mg | FC=1C=C(OCCN2N=CC(=C2)/C=C/C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C(C1)F | C25H26F2N4O4
reactant | HCl | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethylaceate | 15 mL | C(C)OC(C)=O | C4H8O2
product | (E)-N-(2-aminophenyl)-3-(1-(2-(3,5-difluorophenoxy)ethyl)-1H-pyrazol-4-yl)acrylamide | NC1=C(C=CC=C1)NC(\C=C\C=1C=NN(C1)CCOC1=CC(=CC(=C1)F)F)=O | C20H18F2N4O2
